US08030305B2
Sodium hydroxide [2M] (0.77 mL) was added to a solution of 2-quinazolin-6-yl-malonic acid diethyl ester (0.20 g, 0.77 mmol) in methanol (10 mL) and stirred at room temperature for several hours. The reaction was evaporated, ethyl acetate was added and then 1N HCl was added dropwise until the compound went into the organic layer. The organic layer was evaporated to give 0.123 g (85%) of quinazolin-6-yl -acetic acid.

reactant | Sodium hydroxide | 2M, 0.77 mL | [OH-].[Na+]
reactant | 2-quinazolin-6-yl-malonic acid diethyl ester | 0.77 mmol, 0.20 g | C(C)OC(C(C(=O)OCC)C=1C=C2C=NC=NC2=CC1)=O | C15H16N2O4
solvent | methanol | 10 mL | CO | CH4O
product | quinazolin-6-yl -acetic acid | 0.123 g, 85% | N1=CN=CC2=CC(=CC=C12)CC(=O)O | C10H8N2O2
